US08912188B2
To a solution of methyl 3-chloro-2-oxo-1,2-dihydroquinoxaline-6-carboxylate (200 mg, 0.84 mmol) in DMSO (2 mL) was added (S)-butan-2-amine (93 mg, 1.27 mmol) and DIEA (163 mg, 1.26 mmol). The resulting solution was stirred for 3 hours at 70° C. and then quenched by the addition of water (10 mL). The solids were collected by filtration to afford (S)-methyl 3-(sec-butylamino)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate as light yellow solid (150 mg, 65%).

reactant | methyl 3-chloro-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 0.84 mmol, 200 mg | ClC=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O | C10H7ClN2O3
reactant | (S)-butan-2-amine | 1.27 mmol, 93 mg | C[C@@H](CC)N | C4H11N
reactant | DIEA | 1.26 mmol, 163 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | (S)-methyl 3-(sec-butylamino)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 150 mg, 65% | [C@H](C)(CC)NC=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O | C14H17N3O3
